US08859555B2
HCl in 1,4 dioxane (4 mL) at 0° C. was added to a cooled solution of (trans)-2-(4-(benzyloxy)phenyl)-N-(2-(4-methylpiperazin-1-yl)ethyl)cyclopropanamine (120 mg, 1 equiv) in dioxane (5 mL) and stirred for 16 h. The progress of the reaction was monitored by TLC. After completion, it was filtered to obtain 62 mg of (trans)-2-(4-(benzyloxy)phenyl)-N-(2-(4-methylpiperazin-1-yl)ethyl)cyclopropanamine hydrochloride salt. Yield: 43%. 1H-NMR (DMSO-d6) δ (ppm): 1.21 (q, 1H), 1.54 (quin, 1H), 2.76 (s, 3H), 2.91 (br, 2H), 3.09 (br, 2H), 3.28 (br, 2H), 3.44 (br, 2H), 5.08 (s, 2H), 6.94 (d, 2H), 7.11 (d, 2H), 7.33 (m, 1H), 7.40 (m, 4H), 9.50 (br, 1H), 10.92 (br, 1H). MS (M+H): 366.2

reactant | HCl | Cl | ClH
reactant | (trans)-2-(4-(benzyloxy)phenyl)-N-(2-(4-methylpiperazin-1-yl)ethyl)cyclopropanamine | 120 mg, 1 equiv | C(C1=CC=CC=C1)OC1=CC=C(C=C1)[C@H]1[C@@H](C1)NCCN1CCN(CC1)C | C23H31N3O
solvent | 1,4 dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | (trans)-2-(4-(benzyloxy)phenyl)-N-(2-(4-methylpiperazin-1-yl)ethyl)cyclopropanamine hydrochloride salt | 62 mg, Yield: 43% | Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)[C@H]1[C@@H](C1)NCCN1CCN(CC1)C | InChI=1S/C23H31N3O.ClH/c1-25-13-15-26(16-14-25)12-11-24-23-17-22(23)20-7-9-21(10-8-20)27-18-19-5-3-2-4-6-19;/h2-10,22-24H,11-18H2,1H3;1H/t22-,23+;/m0./s1
